US04039316
42 g of diketene were added to a solution of 82.1 g of m-aminopropionanilide in 400 ml of benzene and the mixture was stirred for 41/2 hours and then was vacuum filtered. The recovered precipitate was washed with benzene, then isopropyl ether and dried to obtain 118 g of m-propionamido-acetylacetanilide melting at 70° C. which was used as is for the next step.

reactant | diketene | 42 g | C=C1CC(=O)O1 | C4H4O2
reactant | m-aminopropionanilide | 82.1 g | NC=1C=C(NC(CC)=O)C=CC1 | C9H12N2O
solvent | benzene | 400 ml | C1=CC=CC=C1 | C6H6
product | m-propionamido-acetylacetanilide | 118 g | C(CC)(=O)NC=1C=C(NC(CC(C)=O)=O)C=CC1 | C13H16N2O3
